US08557805B2
5-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid
A mixture of ethyl 5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylate (4.0 g), 1M aqueous sodium hydroxide solution (13 mL), tetrahydrofuran (20 mL), and ethanol (20 mL) was stirred at 50° C. for 50 min. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in water. 1M Hydrochloric acid (13.2 mL) was added and the precipitated yellow solid was collected by filtration. The obtained solid was washed with water and diethyl ether to give the title compound (4.1 g, yield 100%) as a yellow solid.

reactant | ethyl 5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylate | 4.0 g | CS(=O)(=O)C=1C=CC(=NC1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)OCC | C22H24N2O7S
reactant | sodium hydroxide | 1M, 13 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid | 4.1 g, yield 100% | CS(=O)(=O)C=1C=CC(=NC1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)O | C20H20N2O7S
